US09255096B1
3-(8,9-dihydrothieno[3,2-c]-2,7-naphthyridin-7(6H)-yl)benzoic acid
A solution of methyl 3-(8,9-dihydrothieno[3,2-c]-2,7-naphthyridin-7(6H)-yl)benzoate (3.54 g, 10.91 mmol) in 1,4-dioxane (150 ml) was treated with 1.0 N NaOH(aq.) (32.73 ml, 32.73 mmol) and the reaction mixture was stirred at 90° C. for 3.5 hours. The solvent was removed in vacuo and the residue was partitioned between water and diethyl ether. The organic phase was discarded and the aqueous phase was acidified to pH ˜4-5 with 1.0 N HCl(aq.). The resulting precipitate was collected, washed with water, EtOAc, and dried in vacuo at 35° C. to afford the title compound as a yellow, amorphous solid (2.66 g, 79%). MS (APCl): (M+1)+=311;

reactant | methyl 3-(8,9-dihydrothieno[3,2-c]-2,7-naphthyridin-7(6H)-yl)benzoate | 10.91 mmol, 3.54 g | S1C=CC=2N=CC=3CN(CCC3C21)C=2C=C(C(=O)OC)C=CC2 | C18H16N2O2S
reactant | NaOH | 32.73 mmol, 1.0 N, 32.73 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 3-(8,9-dihydrothieno[3,2-c]-2,7-naphthyridin-7(6H)-yl)benzoic acid | S1C=CC=2N=CC=3CN(CCC3C21)C=2C=C(C(=O)O)C=CC2 | C17H14N2O2S
